US07781588B1
Part B: Preparation of 9,9-dibutylacridan
To an ice-cooled solution of 9-butylacridine (27.0 g, 0.115 mol) and TMEDA (4.1 mL, 0.027 mol) in THF (135 mL), was added 2.5 M n-butyllithium in hexanes (140 mL, 0.350 mol) dropwise. The mixture was stirred at 0° C. overnight and quenched with water. After stirring for an additional 0.5 hours, the reaction mixture was poured into crushed ice and extracted with ethyl acetate. The organic solution was washed with water and dried over MgSO4. The solvent was evaporated and the resulting residue was chromatographed on silica gel (hexanes:ethyl acetate=10:1 as eluent) to give 14.5 g (43%) of yellow powder.

reactant | 9-butylacridine | 0.115 mol, 27.0 g | C(CCC)C=1C2=CC=CC=C2N=C2C=CC=CC12 | C17H17N
reactant | TMEDA | 0.027 mol, 4.1 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
solvent | THF | 135 mL | C1CCOC1 | C4H8O
product | 9,9-dibutylacridan | 14.5 g, 43% | C(CCC)C1(C2=CC=CC=C2NC=2C=CC=CC12)CCCC | C21H27N
